US07576215B2
3-(1-METHYL-1-PHENYLETHYL)-4-PHENYL-8-(TRIFLUOROMETHYL)QUINOLINE
3,3-Dimethyl-3-phenylpropionaldehyde (0.272 g, 1.67 mmol) and [2-amino-3-(trifluoromethyl)phenyl](phenyl)methanone (0.138 g, 0.52 mmol) are dissolved in AcOH (3 mL) and treated with 1:20H2SO4/AcOH solution (0.10 mL). The mixture is heated in a microwave at 175° C. for 15 min and a further 5 min at 200° C. The reaction is carefully poured into saturated aq sodium bicarbonate and extracted with ethyl acetate. The extracts are washed with saturated aq sodium bicarbonate and dried (MgSO4). The product is chromatographed eluting with 5:95 ethyl acetate:hexane. The partially purified is further purified using Prep HPLC with a gradient of 10-100% acetonitrile/water to afford the title compound (0.069 g). HRMS: calcd for C25H20F3N+H, 392.16261; found (ESI, [M+H]+), 392.1637.

reactant | 3,3-Dimethyl-3-phenylpropionaldehyde | 1.67 mmol, 0.272 g | CC(CC=O)(C1=CC=CC=C1)C | C11H14O
reactant | [2-amino-3-(trifluoromethyl)phenyl](phenyl)methanone | 0.52 mmol, 0.138 g | NC1=C(C=CC=C1C(F)(F)F)C(=O)C1=CC=CC=C1 | C14H10F3NO
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | AcOH | 3 mL | CC(=O)O | C2H4O2
solvent | AcOH | 0.10 mL | CC(=O)O | C2H4O2
product | 3-(1-METHYL-1-PHENYLETHYL)-4-PHENYL-8-(TRIFLUOROMETHYL)QUINOLINE | 0.069 g | CC(C)(C1=CC=CC=C1)C=1C=NC2=C(C=CC=C2C1C1=CC=CC=C1)C(F)(F)F | C25H20F3N
